US06608220B1
Bisnoralcohol (I) to Bisnoraldehyde (II) at 1° with 4-Hydroxy-TEMPO
A mixture of bisnoralcohol (I, 4 g), 4-hydroxy-2,2,6,6-tetramethylpiperidine-1-oxyl (4-hydroxy-TEMPO, 10 mg), potassium bromide (133 mg), sodium bicarbonate (133 mg), dichloromethane (14 ml) and water (2.2 ml) are cooled to 1°. While maintaining this temperature, aqueous sodium hypochlorite (14%, 6.3 ml) is added over a five hr period. The reaction is complete and aqueous sodium thiosulfate is added, the two phases were separated, and the bisnoraldehyde product is crystallized by replacing the dichloromethane with heptane to give the title compound, mp=153-154°; NMR (CDCl3) 9.56, 5.73, 2.2-2.5, 1.2-2.1, 1.20, 1.10, 0.79 δ; [α]D22=+83.4° (methylene chloride, c=1).

reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine-1-oxyl | 10 mg | CC1(CC(CC(N1[O])(C)C)O)C | C9H18NO2
reactant | potassium bromide | 133 mg | [Br-].[K+]
reactant | sodium bicarbonate | 133 mg | C([O-])(O)=O.[Na+]
reactant | sodium hypochlorite | 6.3 ml | Cl[O-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 2.2 ml | O | H2O
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | 4-Hydroxy-TEMPO | CC1(CC(CC(N1O)(C)C)O)C | C9H19NO2
